US08211908B2
To a solution of 0.66 g of tert-butyl (1-(2-(7-((tert-butoxycarbonyl)amino)-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate in 8 mL of methanol, 8 mL of a 4 mol/L hydrogen chloride/ethyl acetate solution was added at room temperature, the mixture was stirred for 18 hours, and then the solid was filtered off. Subsequently, the solid was suspended in 3 mL of chloroform, thereto was added 6 mL of trifluoroacetic acid at room temperature, the mixture was stirred for 2 hours, and the solvent was then distilled off under reduced pressure. The residue was charged with chloroform and water and adjusted to pH 9 with a 2 mol/L aqueous sodium hydroxide solution, and the organic layer was separated. The aqueous layer was extracted with chloroform three times and combined with the organic layer, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.31 g of 7-amino-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one as a white foam.

reactant | tert-butyl (1-(2-(7-((tert-butoxycarbonyl)amino)-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)carbamate | 0.66 g | C(C)(C)(C)OC(=O)NC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)N(C(OC(C)(C)C)=O)CC1=CC2=C(C=N1)OCCO2)=O | C33H44N6O7
reactant | hydrogen chloride ethyl acetate | 4 mol/L | Cl.C(C)(=O)OCC
solvent | methanol | 8 mL | CO | CH4O
product | 7-amino-1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one | 0.31 g | NC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=CC2=C(C=N1)OCCO2)=O | C23H28N6O3
